US07402595B2
3-[(2Z)-3-aminobut-2-enoyl]-6-bromo-2-(4-methanesulfonylbenzyl)-4-phenyl-2H-isoquinolin-1-one
To a solution (44 ml) of 6-bromo-3-(2-bromoacetyl)-2-(4-methanesulfonylbenzyl)-4-phenyl-2H-isoquinolin-1-one (4.41 g) in DMF was added thioacetamide (1.1 g) and the mixture was stirred at 70° C. for 24 hrs. Water and saturated aqueous sodium hydrogen carbonate were added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The obtained crystals were washed with methanol and recrystallized (ethyl acetate) to give the title compound (1.31 g).

reactant | 6-bromo-3-(2-bromoacetyl)-2-(4-methanesulfonylbenzyl)-4-phenyl-2H-isoquinolin-1-one | 44 ml, 4.41 g | BrC=1C=C2C(=C(N(C(C2=CC1)=O)CC1=CC=C(C=C1)S(=O)(=O)C)C(CBr)=O)C1=CC=CC=C1 | C25H19Br2NO4S
reactant | thioacetamide | 1.1 g | C(C)(=S)N | C2H5NS
reactant | Water | O | H2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-[(2Z)-3-aminobut-2-enoyl]-6-bromo-2-(4-methanesulfonylbenzyl)-4-phenyl-2H-isoquinolin-1-one | 1.31 g | N\C(=C/C(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=C(C=C1)S(=O)(=O)C)\C | C27H23BrN2O4S
